US08034811B2
O-(2-Amino-benzyl)-hydroxylamine
Prepared by a similar procedure as described for preparation 31 starting from 2-amino-benzylalcohol and N-hydroxyphthalimide. 13C-NMR (CDCl3) δ 146.4, 131.2, 129.7, 121.4, 118.1, 115.9, 76.6.

reactant | 2-amino-benzylalcohol | NC1=C(CO)C=CC=C1 | C7H9NO
reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
product | O-(2-Amino-benzyl)-hydroxylamine | NC1=C(CON)C=CC=C1 | C7H10N2O
